US07781598B2
(4-Acetylamino-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester (2.0 g, 7.3 mmol) was slurried in ethanol (10 ml) at ambient temperature. Aqueous sodium hydroxide (1 M, 10 ml, 10 mmol) was added and the mixture heated to 50° C. The solution obtained at was then allowed to cool back to ambient temperature and aqueous hydrochloric acid (1 M, 11 ml, 11 mmol) added. The resulting solid was collected by filtration, washed with water (2×10 ml) then dried in a vacuum oven at 45° C. overnight to provide (4-acetylamino-2-methyl-1H-indol-1-yl)acetic acid as an off-white solid, 1.66 g (92%).

reactant | (4-Acetylamino-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester | 7.3 mmol, 2.0 g | C(C)(=O)NC1=C2C=C(N(C2=CC=C1)CC(=O)OCC)C | C15H18N2O3
reactant | sodium hydroxide | 10 mmol, 1 M, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 11 mmol, 1 M, 11 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (4-acetylamino-2-methyl-1H-indol-1-yl)acetic acid | C(C)(=O)NC1=C2C=C(N(C2=CC=C1)CC(=O)O)C | C13H14N2O3
